US03998834
A mixture of 33.35 parts of (2-bromoethyl)benzene, 35 parts of 4-[N-(4-methylphenyl)amino]-4-piperidinecarboxamide, 20 parts of N,N-diethylethanamine and 225 parts of N,N-dimethylacetamide is stirred for 4 hours at 70°-80° C. The reaction mixture is poured onto water and the product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is poured onto water, whereupon the product is precipitated. It is filtered off and suspended twice in water. The product is filtered off again, washed with 2,2'-oxybispropane and dried, yielding 4-[N-(4-methylphenyl)amino]-1-(2-phenylethyl)-4-piperidinecarboxamide; mp. 163.1° C.

reactant | (2-bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 4-[N-(4-methylphenyl)amino]-4-piperidinecarboxamide | CC1=CC=C(C=C1)NC1(CCNCC1)C(=O)N | C13H19N3O
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-[N-(4-methylphenyl)amino]-1-(2-phenylethyl)-4-piperidinecarboxamide | CC1=CC=C(C=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)N | C21H27N3O
